US07786115B2
Methyl 3-amino-4-methylbenzoate (3.18 g), 2-bromo-5-methoxybenzene-1-carbonyl chloride (4.8 g) and triethylamine (5.4 ml) in THF (45 ml) were stirred at room temperature for 2.5 hour and then concentrated. The residue was dissolved in ethyl acetate and washed with 1N HCl, water, brine, dried (magnesium sulfate) and concentrated. The residue was recrystallised from hot ethyl acetate, washed with ether, and air dried to yield methyl 3-[(2-bromo-5-methoxybenzoyl)amino]-4-methylbenzoate as a white solid (5.36 g); NMR Spectrum: (DMSOd6) 2.39 (s, 3H), 3.83 (s, 3H), 3.87 (s, 3H), 7.02 (m, 1H), 7.23 (d, 1H), 7.42 (d, 1H), 7.60 (d, 1H), 7.75 (m, 1H), 8.12 (s, 1H), 10.06 (s, 1H); Mass Spectrum: M+H+ 377.

reactant | Methyl 3-amino-4-methylbenzoate | 3.18 g | NC=1C=C(C(=O)OC)C=CC1C | C9H11NO2
reactant | 2-bromo-5-methoxybenzene-1-carbonyl chloride | 4.8 g | BrC1=C(C=C(C=C1)OC)C(=O)Cl | C8H6BrClO2
reactant | triethylamine | 5.4 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | methyl 3-[(2-bromo-5-methoxybenzoyl)amino]-4-methylbenzoate | 5.36 g | BrC1=C(C(=O)NC=2C=C(C(=O)OC)C=CC2C)C=C(C=C1)OC | C17H16BrNO4
